US07576098B2
To a solution of 5-chloro-1H-benzo[d]imidazole (500 mg, 3.28 mmol) in 5 mL DMF, were added TEA (0.502 mL, 3.60 mmol) and TrCl (1.00 g, 3.60 mmol). The mixture was stirred at rt for 3 h, then was diluted with EtOAc. The organic phase was washed with H2O (2×) and brine, dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography (0 to 75% EtOAc/hexanes gradient) to afford 580 mg of 5-chloro-1-trityl-1H-benzo[d]imidazole, followed by 225 mg of 6-chloro-1-trityl-1H-benzo[d]imidazole (177.1) as a white solid.

reactant | 5-chloro-1H-benzo[d]imidazole | 3.28 mmol, 500 mg | ClC1=CC2=C(NC=N2)C=C1 | C7H5ClN2
reactant | TrCl | 3.60 mmol, 1.00 g | ClC(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C19H15Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-chloro-1-trityl-1H-benzo[d]imidazole | 580 mg | ClC1=CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C26H19ClN2
